US07521480B2
4-Chloro-2-(3-pyridin-2-yl-ureido)-benzoic acid (Compound E1)
Pyridine-2-carboxylic acid (369 mg, 3 mmol) was suspended in 15 ml dry toluene and diphenyl-phosphoryl azide (958 mg, 3.5 mmol) added. Triethylamine (354 mg, 3.6 mmol) was then added drop-wise and the mixture stirred at room temperature for 0.5 hour. The solution was heated to 80° C. and after 2 hours 2-amino-4-chloro-benzoic acid (463 mg, 2.7 mmol) was added in 20 ml THF and triethylamine (0.354 g, 3.6 mmol) was also added. The mixture was stirred for 1 hour at 80° C. and then at room temperature overnight. The mixture was allowed to cool and the solvent was removed under reduced pressure. The residue was taken up into ethyl acetate and precipitated with heptane and filtered with suction. Yield after recrystallation from ethyl acetate/heptane was 640 mg (73%) of white crystalline solid (m.p. 222-224° C.).

reactant | Pyridine-2-carboxylic acid | 3 mmol, 369 mg | N1=C(C=CC=C1)C(=O)O | C6H5NO2
reactant | diphenyl-phosphoryl azide | 3.5 mmol, 958 mg | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | Triethylamine | 3.6 mmol, 354 mg | C(C)N(CC)CC | C6H15N
reactant | 2-amino-4-chloro-benzoic acid | 2.7 mmol, 463 mg | NC1=C(C(=O)O)C=CC(=C1)Cl | C7H6ClNO2
reactant | triethylamine | 3.6 mmol, 0.354 g | C(C)N(CC)CC | C6H15N
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 4-Chloro-2-(3-pyridin-2-yl-ureido)-benzoic acid | ClC1=CC(=C(C(=O)O)C=C1)NC(=O)NC1=NC=CC=C1 | C13H10ClN3O3
